US07700598B2
58f (R)-1-carboxy-2-(3,5-dibromo-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 118 mg (4.9 mmol) LiOH in 5 mL water was added to a solution of 2.0 g (3.3 mmol) of (R)-2-(3,5-dibromo-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 12.5 mL THF and the mixture was stirred for 2 h at RT. The reaction mixture was evaporated down i. vac., the residue was combined with water and TBME, the aqueous phase was adjusted to pH 2-3 with conc. HCl and extracted with DCM. The combined organic phases were washed with saturated NaCl solution, dried over Na2SO4 and evaporated to dryness i. vac.

reactant | LiOH | 4.9 mmol, 118 mg | [Li+].[OH-]
reactant | (R)-2-(3,5-dibromo-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 3.3 mmol, 2.0 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=CC(=C1)Br)Br)C(=O)OC)C=CC=C2 | C25H27Br2N3O5
solvent | water | 5 mL | O | H2O
solvent | THF | 12.5 mL | C1CCOC1 | C4H8O
product | (R)-1-carboxy-2-(3,5-dibromo-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=CC(=C1)Br)Br)C(=O)O)C=CC=C2 | C24H25Br2N3O5
